US07465731B2
Sodium triacetoxyborohydride (0.56 g) was added a mixture of ethyl (2Z)-3-{5-chloro-6-[(3R)-3-piperidinylamino]-3-pyridinyl}-2-fluoroacrylate dihydrochloride (0.7 g), Et3N (0.49 mL) and cyclohexanecarboxaldehyde (0.23 mL) in CH2Cl2 (14 mL) and the mixture was stirred at ambient temperature for 20 hr. The reaction mixture was poured into a mixture of CHCl3 and aq NaHCO3. The separated organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo to give ethyl (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoroacrylate (0.74 g).

reactant | Sodium triacetoxyborohydride | 0.56 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ethyl (2Z)-3-{5-chloro-6-[(3R)-3-piperidinylamino]-3-pyridinyl}-2-fluoroacrylate dihydrochloride | 0.7 g | Cl.Cl.ClC=1C=C(C=NC1N[C@H]1CNCCC1)\C=C(\C(=O)OCC)/F
reactant | cyclohexanecarboxaldehyde | 0.23 mL | C1(CCCCC1)C=O | C7H12O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | Et3N | 0.49 mL | CCN(CC)CC | C6H15N
product | ethyl (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoroacrylate | 0.74 g | ClC=1C=C(C=NC1N[C@H]1CN(CCC1)CC1CCCCC1)\C=C(\C(=O)OCC)/F | C22H31ClFN3O2
